US04025635
To 3-(5-tetrazolyl)thioxanthone-10,10-dioxide (1.25g.), zinc wool (2.50g.) and mercuric acetate (0.10g.) was added acetic acid (25 ml.) and concentrated hydrochloric acid (25 ml.), and the mixture boiled under reflux for 2hr. After this time a further amount of hydrochloric acid (1.5ml.) was added and the mixture boiled for a further 4 hr., filtered while hot, cooled, the diluted with water. The crude product was filtered off, recrystallised three times from methanol, and dried at 80° C. in vacuo to give 3-(5-tetrazolyl)thioxanthene-10,10-dioxide m.pt. 233° C. with decomposition.

reactant | 3-(5-tetrazolyl)thioxanthone-10,10-dioxide | 1.25g | N1N=NN=C1C=1C=CC=2C(C3=CC=CC=C3S(C2C1)(=O)=O)=O | C14H8N4O3S
reactant | hydrochloric acid | 25 ml | Cl | ClH
reactant | hydrochloric acid | 1.5ml | Cl | ClH
catalyst | zinc | [Zn] | Zn
solvent | acetic acid | 25 ml | C(C)(=O)O | C2H4O2
product | 3-(5-tetrazolyl)thioxanthene-10,10-dioxide | N1N=NN=C1C=1C=CC=2CC3=CC=CC=C3S(C2C1)(=O)=O | C14H10N4O2S
